US07105544B2
1-(4-FLUOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE
Example 40 was prepared from 1-(4-fluorophenyl)cyclohexanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide according to the procedures described in Scheme 9: 1H NMR (400 MHz, CDCl3) δ 7.56 (s, 2H), 7.42–7.36 (m, 2H), 7.30–7.20 (m, 2H), 7.05–6.96 (m, 3H), 6.85–6.79 (m, 1H), 3.28 (q, 2H, J=6.3 Hz), 2.95–2.87 (m, 2H), 2.57–2.41 (m, 2H), 2.36–2.28 (m, 4H), 2.06 (s, 1H), 1.96–1.84 (m, 4H), 1.83–1.75 (m, 2H), 1.71–1.54 (m, 9H), 1.24 (d, 6H, J=7.1 Hz); ESMS m/e: 508.3 (M+H)+.

reactant | 1-(4-fluorophenyl)cyclohexanecarboxylic acid | FC1=CC=C(C=C1)C1(CCCCC1)C(=O)O | C13H15FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C18H29N3O
product | 1-(4-FLUOROPHENYL)-N-(3-{4-[3-(ISOBUTYRYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOHEXANECARBOXAMIDE | FC1=CC=C(C=C1)C1(CCCCC1)C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(C(C)C)=O | C31H42FN3O2
